US08293909B2
3-iodo-N-(1-(pyridin-2-yl)cyclopropyl)benzamide.
3-Iodobenzoic acid (2.7 g, 11.1 mmol, 1 eq), 1-(pyridin-2-yl)cyclopropanamine (1.5 g, 11.1 mmol, 1 eq), EDCI.HCl (3.2 g, 16.7 mmol, 1.5 eq), HOBT (2.2 g, 16.7 mmol, 1.5 eq) and DIPEA (6 ml, 33.5 mmol, 3 eq) were dissolved in DCM and the resulting mixture was stirred at room temperature for 18 hours. Water was added to the mixture and the product was extracted with DCM. The organic layer was concentrated and the product crystallized using dichloromethane and hexane. Yield: 2.3 g (57%). 1HNMR (400 MHz, DMSO-d6): δ 1.26 (m, 2H), 1.54 (m, 2H), 7.13 (t, J=4.04 Hz, 1H), 7.29 (m, 2H), 7.69 (t, J=8.06 Hz, 1H), 7.92 (d, J=3.05 Hz, 2H), 8.29 (s, 1H), 8.45 (d, J=4.56 Hz, 1H), 9.33 (s, 1H).

reactant | 3-Iodobenzoic acid | 11.1 mmol, 2.7 g, 1 eq | IC=1C=C(C(=O)O)C=CC1 | C7H5IO2
reactant | 1-(pyridin-2-yl)cyclopropanamine | 11.1 mmol, 1.5 g, 1 eq | N1=C(C=CC=C1)C1(CC1)N | C8H10N2
reactant | EDCI.HCl | 16.7 mmol, 3.2 g, 1.5 eq | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 16.7 mmol, 2.2 g, 1.5 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 33.5 mmol, 6 ml, 3 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | 3-iodo-N-(1-(pyridin-2-yl)cyclopropyl)benzamide | IC=1C=C(C(=O)NC2(CC2)C2=NC=CC=C2)C=CC1 | C15H13IN2O
